US06759426B2
(−)-Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-(1-isopentyl-1H-imidazol-4-yl)propanoate
1-Bromo-3-methylbutane (4.44 ml, 37.2 mmol) was added to a mixture of Nα-Boc-L-histidine methyl ester (5.0 g, 18.6 mmol) and sodium carbonate (4.0 g, 37.2 mmol) in acetonitrile (80 ml), and the mixture was heated under reflux for 18 hours. The cooled mixture was concentrated under reduced pressure. The residue was suspended in water and the suspension was basified using sodium carbonate then extracted with ethyl acetate (3×30 ml). The combined organic extracts were dried (Na2SO4) and evaporated under reduced pressure. The residual oil was purified by column chromatography on silica gel using an elution gradient of hexane:ethyl acetate (100:0 to 5:95) to afford the title compound as a colourless oil, 2.8 g. 1H-NMR (CDCl3, 400 MHz) δ: 0.90 (d, 6H), 1.40 (s, 9H), 1.50 (m, 1H), 1.60 (m, 2H), 2.96-3.06 (m, 2H), 3.62 (s, 3H), 3.82 (t, 2H), 4.50 (m, 1H), 5.85 (m, 1H), 6.62 (s, 1H), 7.32 (s, 1H). LRMS: m/z (ES+) 340 [MH+]. [α]D=−2.3 (c=0.22, methanol).

reactant | 1-Bromo-3-methylbutane | 37.2 mmol, 4.44 ml | BrCCC(C)C | C5H11Br
reactant | Nα-Boc-L-histidine methyl ester | 18.6 mmol, 5.0 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CNC=N1)=O | C12H19N3O4
reactant | sodium carbonate | 37.2 mmol, 4.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | (−)-Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-(1-isopentyl-1H-imidazol-4-yl)propanoate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC=1N=CN(C1)CCC(C)C | C17H29N3O4
